US06900196B2
4-[(N-Methyl)benzyloxycarbonylaminomethyl]-1-Boc-piperidine
A solution of 4-(benzyloxycarbonylaminomethyl)-1-Boc-piperidine (0.360 g, 1.03 mmol) in DMF (10 mL) was treated with sodium hydride (60%, 0.050 g, 1.25 mmol). After 0.5 h, methyl tosylate (0.18 mL, 1.20 mmol) was added and the mixture heated to 6° C. After 12 h, the mixture was poured into EtOAc and saturated aqueous sodium bicarbonate. The combined extracts were washed with water, brine and concentrated to afford 0.300 g (79%) the title compound which was used without further purification.

reactant | 4-(benzyloxycarbonylaminomethyl)-1-Boc-piperidine | 1.03 mmol, 0.360 g | C(C1=CC=CC=C1)OC(=O)NCC1CCN(CC1)C(=O)OC(C)(C)C | C19H28N2O4
reactant | sodium hydride | 1.25 mmol, 0.050 g | [H-].[Na+]
reactant | methyl tosylate | 1.20 mmol, 0.18 mL | S(=O)(=O)(OC)C1=CC=C(C)C=C1 | C8H10O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[(N-Methyl)benzyloxycarbonylaminomethyl]-1-Boc-piperidine | 0.300 g, 79% | CN(C(=O)OCC1=CC=CC=C1)CC1CCN(CC1)C(=O)OC(C)(C)C | C20H30N2O4
